US06166006
To a solution of methyl (E)-3-[5-(4-methylphenyl)-pyridin-3-yl]acrylate (2.25 g) in tetrahydrofuran (20 ml) was added 1N sodium hydroxide (11 ml) at room temperature, and the mixture was stirred for 5 days. To the reaction mixture was added 1N hydrochloric acid (12 ml), and the mixture was concentrated under reduced pressure to precipitate crystals, which were collected by filtration and washed with water and diethylether to give (E)-3-[5-(4-methylphenyl)pyridin-3-yl]acrylic acid (1.92 g) as colorless crystals.

reactant | methyl (E)-3-[5-(4-methylphenyl)-pyridin-3-yl]acrylate | 2.25 g | CC1=CC=C(C=C1)C=1C=C(C=NC1)/C=C/C(=O)OC | C16H15NO2
reactant | sodium hydroxide | 1N, 11 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 12 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (E)-3-[5-(4-methylphenyl)pyridin-3-yl]acrylic acid | 1.92 g | CC1=CC=C(C=C1)C=1C=C(C=NC1)/C=C/C(=O)O | C15H13NO2
